US07820704B2
To a MeOH-DCM solution (4:1, 4 mL) of 3-({[2-(4-benzyloxy-phenyl)-pyrimidin-4-yl]-cyclopentyl-amino}-methyl)-benzoic acid methyl ester (116 mg, 0.235 mmol) was added 10% Pd/C (25 mg), and the reaction mixture was stirred at room temperature for 2 h under a hydrogen atmosphere (balloon). The mixture was filtered through a pad of Celite and then concentrated. The 3-({cyclopentyl-[2-(4-hydroxy-phenyl)-pyrimidin-4-yl]-amino}-methyl)-benzoic acid methyl ester obtained was used without further purification. LCMS m/z: 405 (M+1)+.

reactant | 3-({[2-(4-benzyloxy-phenyl)-pyrimidin-4-yl]-cyclopentyl-amino}-methyl)-benzoic acid methyl ester | 0.235 mmol, 116 mg | COC(C1=CC(=CC=C1)CN(C1CCCC1)C1=NC(=NC=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C31H31N3O3
catalyst | Pd/C | 25 mg | [Pd] | Pd
solvent | MeOH DCM | 4 mL | CO.C(Cl)Cl
product | 3-({cyclopentyl-[2-(4-hydroxy-phenyl)-pyrimidin-4-yl]-amino}-methyl)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)CN(C1=NC(=NC=C1)C1=CC=C(C=C1)O)C1CCCC1)=O | C24H25N3O3
